US05807859
A mixture of 3.2 g of 10-[(1-methylimidazol-5-yl)methylene]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one, 60 ml of 1N hydrochloric acid and 30 ml of water is hydrogenated, at a temperature in the region of 20° C. and at a pressure of 1.7 bar of hydrogen, for 6 hours in the presence of 10% palladium-on-charcoal. The catalyst is removed by filtration under an inert atmosphere and the filtrate is brought to pH=6 with concentrated sodium hydroxide. The white precipitate formed is filtered off, washed with distilled water and dried at 35° C. under vacuum (1 mmHg; 0.13 kPa). 2.1 g of 10-[(1-methylimidazol-5-yl)methyl]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are obtained in the form of a white solid melting above 260° C. (Analysis, % calculated C: 68.13, H: 4.76, N: 22.07, O: 5.04, % found C: 67.8, H: 4.9, N: 22.5).

reactant | 10-[(1-methylimidazol-5-yl)methylene]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 3.2 g | CN1C=NC=C1C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H13N5O
reactant | hydrochloric acid | 1N, 60 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | water | 30 ml | O | H2O
product | 10-[(1-methylimidazol-5-yl)methyl]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2.1 g | CN1C=NC=C1CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H15N5O
